Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Painful leg swelling.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ year old male with hx of varicose veins and superficial 
thrombophlebitis presenting w/ leg swelling and chest pain. 
Patient described hx of lower extremity pains which was first 
noted as right leg twinging sharp pains in ___ and on and off 
since. He presented to his PCP two weeks ago (___) when he 
describes episodic sudden pain in a circumscribed region of the 
anterior right ankle which comes on without apparent injury and 
lasts for a matter of hours, responding spontaneously. 
Superficial thrombophlebitis was suspected and he was provided 
with aspirin, however he did not tolerate this due to 
gastrointestinal distress. He was again seen by his PCP one week 
ago on ___ for ongoing symptoms with leg cramping, swelling 
from ankle to the popliteal fossa, this time in the left leg. 
Ultrasound at that time was negative for DVT or bakers cyst. He 
reports these symptoms were new intensity. CBC, CK, and CRP 
taken at the time were WNL. He was recommended again to have 
continue with leg elevation and aspirin. 
His leg discomfort persisted, and 3 days ago, he was awoken from 
sleep with chest pain, pressure like but with some area of 
'sharp sort of up and down over my chest' (demarcating a ___ 
inch area) in the left percordium. Initially he thought that 
this was heartburn, and took of his usual heartburn medication 
and went back to bed. He did not notice this pain worsening with 
deep breathing or with movement. The next day he spoke to his 
PCP over the patient site who recommending him coming in for a 
d-dimer, which was found to be elevated. He was then advised to 
come to the ED. 

In the ED, initial vitals were: T 97.7 HR 66 BP 154/99 RR 18 
SpO2 100% RA. Exam notable for superficial phlebitis. Labs 
notable for D-dimer 584, BNP 317, otherwise unremarkable CBC, 
chemistry, LFTs, coags. Imaging notable for DVT found on LENIS 
in both left peroneal veins, no right sided DVT. Patient was 
started on Heparin gtt. EKG showed atrial fibrillation with rate 
82. Decision was made to admit for anticoagulation as well as 
management of new A-fib. 
 
On the floor,  patient endorses story as above. He denies 
ongoing leg or chest pain. He has not had palpitations, 
dizziness, or shortness of breath, syncopal or pre-syncopal 
events, and no hx of angina, orthopnea or other cardiac 
symptoms. He has had varicose veins but this has not ever been a 
problem for which he has sought medical advise, and has not had 
DVTs or superficial thrombophlebitis symptoms before ___. 
 
Past Medical History:
-Reactive airway disease
-GERD
-Varicose veins
-Pinworm infection s/p Albendazole tx
 
Social History:
___
Family History:
1. Mother ___- Sjogrens syndrome, otherwise healthy
2. Father ___- healthy
3. Siblings: Brother w/ colon cancer at ___. 
4. Children: Healty
5. Maternal grandfather: multiple mini-stroke and 'think died 
from stroke" 
No family history of clotting disorder, other malignancy or 
heart disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 97.7PO 132/88 83 16 96 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Irregularly irregular, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, perfused, 2+ pulses, no clubbing, cyanosis. No 
appreciable swelling, tenderness or erythema in the legs. Mild 
varicosities appreciated. ___ stockings in place.    
Skin:  Without rashes. 
Neuro:  CNI-XII intact; no focal neurological findings. 

DISCHARGE PHYSICAL EXAM
=======================
As above
 
Pertinent Results:
ADMISSION LABS
===============
___ 09:40AM BLOOD WBC-6.7 RBC-5.03 Hgb-15.3 Hct-45.7 MCV-91 
MCH-30.4 MCHC-33.5 RDW-13.2 RDWSD-44.1 Plt ___
___ 09:40AM BLOOD Neuts-69.0 ___ Monos-9.1 Eos-1.2 
Baso-0.6 Im ___ AbsNeut-4.60 AbsLymp-1.32 AbsMono-0.61 
AbsEos-0.08 AbsBaso-0.04
___ 11:12PM BLOOD ___ PTT-28.4 ___
___ 09:10PM BLOOD Glucose-91 UreaN-22* Creat-1.2 Na-140 
K-4.3 Cl-104 HCO3-26 AnGap-14
___ 11:12PM BLOOD ALT-15 AST-18 CK(CPK)-95 AlkPhos-48 
TotBili-0.7
___ 11:12PM BLOOD Albumin-4.5

PERTINENT LABS
===============
___ 11:12PM BLOOD CK-MB-2 proBNP-317*
___ 11:12PM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD cTropnT-<0.01
___ 09:40AM BLOOD D-Dimer-584*

IMAGING
===============
Bilateral Lower Extremity U/S ___:
1. Deep venous thrombosis in both of the left peroneal veins.
2. No evidence of deep venous thrombosis in the right lower 
extremity veins.

Echocardiogram ___:
The left atrium and right atrium are normal in cavity size. No 
left atrial mass/thrombus seen (best excluded by transesophageal 
echocardiography). The estimated right atrial pressure is ___ 
mmHg. Normal left ventricular wall thickness, cavity size, and 
regional/global systolic function (biplane LVEF = 57 %). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are structurally normal. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is jhigh normal. There is no 
pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. High normal 
pulmonary artery systolic pressure. Mild mitral regurgitation. 

Chest x-ray ___:
Lungs are fully expanded and clear.  Cardiomediastinal and hilar 
silhouettes
and pleural surfaces are normal. 

MICROBIOLOGY
===============
Blood cultures ___: Pending at time of discharge. No growth 
to date.

DISCHARGE LABS
===============
___ 11:12PM BLOOD WBC-8.7 RBC-5.04 Hgb-15.1 Hct-45.7 MCV-91 
MCH-30.0 MCHC-33.0 RDW-13.2 RDWSD-44.1 Plt ___
___ 06:00AM BLOOD ___ PTT-150* ___

 
Brief Hospital Course:
___ year old, otherwise healthy male, ___/ several weeks of new 
superficial phlebitis, now p/w LLE swelling found to have distal 
DVT and new atrial fibrillation. 

# Acute LLE distal DVT: Symptomatic, left lower extremity distal 
DVT diagnosed on ___. Also w/ report of prior pleuritic like 
chest pain, resolved in ED. He had a normal ECHO and an 
appropriate age-adjusted Pro-BNP and was otherwise 
hemodynamically stable. No other signs of heart strain; CTA 
chest not performed. He was initiated on a Heparin drip in the 
ED for treatment of his DVT. Currently he has no clear risk 
factors for VTE: He has had no provocative factors such as 
recent surgery or immobilization, no personal or family history 
of VTE, and is up to date w/ cancer screening w/o any symptoms 
that would be suggestive. Currently no risk factors for bleeding 
(HAS-BLED 0). Given his symptomatic DVT and low bleeding risk, 
anticoagulation is indicated for a minimum of 3 months. He 
currently has no contraindication to a DOAC. He was therefore 
started on Rivaroxaban, and was provided a blister pack prior to 
discharge. Would also recommend compression stocking usage for 
prevention of post-phlebitic syndrome. 

#Arrhythmia, likely atrial fibrillation: Irregular rhythm 
captured on EKG in ED and on arrival to floor, no comparisons 
available but pt denies having this issue before.  His EKG was 
initially read as being consistent with A-fib, but there are a 
few wave morphologies that could be organized p waves. The EKG 
was reviewed by cardiology, who felt it was most likely 
consistent with atrial fibrillation. No evidence of valvular 
pathology on ECHO or other structural heart disease. He has a 
CHADS-Vasc score of zero. He is currently asymptomatic and 
hemodynamically stable, and this can likely safely be evaluated 
in the outpatient setting. 

TRANSITIONAL ISSUES
===================
-Started on Rivaroxaban on ___ (15mg BID x3 wks, followed by 
20mg qd) for new acute ___ DVT, planned 3 month course
-Consider thrombophilia w/u for new DVT, appears to be 
unprovoked. Appears to be up to date with cancer screening
-Found to have new irregular heart rhythm, not tachycardic, most 
consistent with AFib. Consider Cardiology referral if warranted
-Would recommend prescription compression stockings for 
prevention of post-phlebitis syndrome

# CODE:  FULL CODE 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
2. Famotidine 20 mg PO BID:PRN reflux 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID Duration: 3 Weeks 
Take with food. 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth As directed Disp #*1 Dose Pack Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
3.  Famotidine 20 mg PO BID:PRN reflux  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
===========
Deep vein thrombosis
Atrial Fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
You were in the hospital because you had pain and swelling in 
your leg. We found that this was due to a blood clot. We also 
found a new abnormal heart rhythm called atrial fibrillation.

What happened to me in the hospital?
We gave you a blood thinning medication to treat the clot. We 
also did tests to ensure that you did not have a blood clot in 
your lungs.

What should I do when I leave the hospital?
You will take the blood thinner for 3 months. If you have any 
more pain in your legs, trouble breathing, chest pain, or cough 
up blood you should call your doctor or go to the Emergency 
Department. Please don't take NSAIDs (Motrin, Aleve) while you 
are on the Xarelto, and use Tylenol for pain control instead.

It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___